US09062056B2
2-[(3-Amino-pyridin-2-ylamino)-methyl]-pentanoic acid ethyl ester
To a solution of 2-[(3-nitro-pyridin-2-ylamino)-methyl]-pentanoic acid ethyl ester (90 mg, 0.32 mmol) in EtOH (5 mL) was added Pd/C (20 mg). The reaction mixture was de-gassed using house vacuum and saturated with H2. The reaction mixture was stirred at room temperature for 18 hours. The mixture was filtered through a pad of celite and the filtrate was concentrated to afford 70 mg (87%) of the desired product which was used for the next reaction without further purification.

reactant | 2-[(3-nitro-pyridin-2-ylamino)-methyl]-pentanoic acid ethyl ester | 0.32 mmol, 90 mg | C(C)OC(C(CCC)CNC1=NC=CC=C1[N+](=O)[O-])=O | C13H19N3O4
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 2-[(3-Amino-pyridin-2-ylamino)-methyl]-pentanoic acid ethyl ester | 70 mg, 87% | C(C)OC(C(CCC)CNC1=NC=CC=C1N)=O | C13H21N3O2
